US07763639B2
1-[3-(1-ALLYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]ETHANONE
Preparation according to Example 1: 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and allylbromide (0.01 g). MS m/z (rel. intensity, 70 eV) 261 (M+, 89), 260 (82), 234 (bp), 218 (25), 82 (32).

reactant | 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone | 0.01 g | FC1=C(C=CC=C1C1CCNCC1)C(C)=O | C13H16FNO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | allylbromide | 0.01 g | C(C=C)Br | C3H5Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-[3-(1-ALLYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]ETHANONE | C(C=C)N1CCC(CC1)C=1C(=C(C=CC1)C(C)=O)F | C16H20FNO
